Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
morphine / Keflex
 
Attending: ___
 
___ Complaint:
RIGHT SHOULDER PAIN 
 
Major Surgical or Invasive Procedure:
TSA right 

 
History of Present Illness:
PATIENT PRESENTED WITH PROXIMAL HUMERUS FRACTURE TREATED NON OP 
WITH SEVERE PAIN 
 
Past Medical History:
Endocrinology   
OSTEOPOROSIS   
Gastroenterology   
ANEMIA   
DYSPHAGIA   
Dermatology   
BASAL CELL CARCINOMA   
LENTIGO MALIGNA   
ACTINIC KERATOSIS   
SQUAMOUS CELL CARCINOMA   
Orthopaedics   
ANKLE FRACTURE   
OSTEOARTHRITIS   
SHOULDER PAIN  

 
Social History:
___
Family History:
NA 
 
Physical Exam:
+ecchymosis and edema RUE
incision c/d/i
NVI distally
 
Pertinent Results:
___ 12:31PM BLOOD WBC-12.7* RBC-3.78* Hgb-12.1 Hct-36.9 
MCV-98 MCH-32.0 MCHC-32.7 RDW-14.2 Plt ___
___ 06:45AM BLOOD WBC-9.7 RBC-2.25*# Hgb-7.1*# Hct-22.0*# 
MCV-98 MCH-31.5 MCHC-32.1 RDW-14.2 Plt ___
___ 12:31PM BLOOD Glucose-141* UreaN-20 Creat-1.1 Na-138 
K-5.3* Cl-108 HCO3-25 AnGap-10
___ 06:45AM BLOOD Glucose-119* UreaN-20 Creat-1.0 Na-135 
K-4.7 Cl-105 HCO3-26 AnGap-9
 
Brief Hospital Course:
Patient was taken to operating room on ___ for a total 
shoulder arthroplasty. She lost 1.5L of blood and recieved 2 
units intraoperative. Here pressures were maintained on 
neosynephrein until it was weaned in the PACU with stable BP and 
a HCT of 36.

On POD 1 her drain output was 30cc so it was dc'd. Her pain was 
controlled and she was NVI.  HCT 22 -> transfuse 2u PRBCs.  
Subsequently her HCT was stable at 26.3.  She required no 
further transfusions and was hemodynamically stable upone 
discharge.

Otherwise, she was voiding on her own and tolerating a regular 
diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin 500 mg PO 4 PILLS ONCE PRIOR TO DENTAL PROCEDURES 

2. Mupirocin Ointment 2% 1 Appl TP BID 
3. Gabapentin 600 mg PO TID 
4. LOPERamide 2 mg PO BID:PRN diarrhea 
5. Lorazepam 1 mg PO BID 
6. Sodium Fluoride 1.1% (Dental Gel) 1 Appl TP BRUSH TEETH TWICE 
A DAY FOR 2 MINUTES EACH TIME  
7. Magnesium Citrate Dose is Unknown  PO ONCE 
8. celecoxib 100 mg oral once daily 
9. Guaifenesin 100 mL PO Q6H:PRN cough 
10. Ferrous Sulfate 325 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. HYDROcodone-acetaminophen ___ mg oral 2 tabs tid prn pain 

13. Omeprazole 20 mg PO DAILY 
14. Calcium Carbonate 500 mg PO BID 
15. Fluoxetine 20 mg PO TID 
16. TraZODone 150 mg PO HS:PRN insomnia 
17. Levothyroxine Sodium 75 mcg PO DAILY 
18. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Fluoxetine 20 mg PO TID 
3. Gabapentin 600 mg PO TID 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Lorazepam 1 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Calcium Carbonate 500 mg PO BID 
8. Amoxicillin 500 mg PO 4 PILLS ONCE PRIOR TO DENTAL PROCEDURES 

9. Ferrous Sulfate 325 mg PO DAILY 
10. Guaifenesin 100 mL PO Q6H:PRN cough 
11. LOPERamide 2 mg PO BID:PRN diarrhea 
12. Magnesium Citrate 150 mL PO ONCE Duration: 1 Dose 
13. Multivitamins 1 TAB PO DAILY 
14. Sodium Fluoride 1.1% (Dental Gel) 1 Appl TP BRUSH TEETH 
TWICE A DAY FOR 2 MINUTES EACH TIME  
15. TraZODone 150 mg PO HS:PRN insomnia 
16. Vitamin D 1000 UNIT PO DAILY 
17. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0
18. Aspirin 325 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right shoulder AVN 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Wound Care:
Remove dressing in 2 days and apply band aid or gauze to cover 
staples.  No dressing is needed if incision is not draining.
Keep steri-strips in place until they fall off or they are 
removed at your first post-operative visit.
Showering in 3 days is fine; be sure to pat the incision dry 
afterwards.
Do not scrub the area; just allow water/soap to wash over you.
Do not bathe or swim approved by surgeon.

Ice:
We recommend that you use the ice wrap/cryocuff on a 
consistent basis for the first ___ hours. This will help 
reduce post-operative swelling. After that, use as necessary. 
Use a cloth between the ice and your skin.  DO NOT place ice 
directly on skin as this may cause ___ bite.  Do not leave ice 
wrap or cold therapy on for more than 20 minutes without 
checking your skin

Sling & Weight bearing status:
With Total Shoulder Replacement, you will be placed in a 
sling.
You need to wear the sling for 6 weeks.  It should only be 
removed for showering and for your exercises.
You should not bear weight with your arm or use your arm to 
lift anything until 3 months after surgery.

Physical Therapy: 
Formal physical therapy will be ordered by your orthopedic 
surgeon in the form of a written prescription at your first or 
second post op appointment. You will also receive a therapy 
protocol form.  Following Total shoulder replacement, you do not 
need formal physical therapy initially.  Your surgeon will 
instruct you when you can move your shoulder. 
 you should not begin pendulum exercises until instructed.  You 
should remain in your sling at all times.  It may only be 
removed to bend + straighten your elbow ___ times a day.
NO PENDULUMS UNTIL FOLLOWUP 

Pain Control:
Day of Surgery
You may have been given a regional anesthetic block prior to 
your operation.  This will wear off in the evening following 
your surgery.
You may find it beneficial to sleep in a recliner or propped 
up on pillows for the first several days after surgery.

Narcotics
You have been prescribed two narcotic pain medications.
You should take Morphine SR (or MS ___ twice a day for 
___ days after surgery.  Take the first pill in the evening 
after your surgery (before your block has worn off). This is a 
long-acting pain medication and not for immediate pain relief.  
This medication will not be renewed.
You should take the other pain medication (percocet or vicodin 
or dilaudid) for pain not controlled by the Morphine and for 
pain once the Morphine is finished.   You may call ___ 
to refill this medication as needed.  Please review our 
narcotics policy which is attached.
Use the medication only as prescribed. Take it with food.
Do not drive or use any type of heavy machinery, drink 
alcohol, make any life-changing or legal decisions (i.e. sign a 
will), or participate in activities that require a lot of 
physical skill.
Take a stool softener, such as Colace, while taking the 
narcotic medication, because narcotics may cause constipation.

Non- Steroidal Anti-Inflammatory Medications:
We recommend that you do not take NSAIDS (ibuprofen or 
naproxen) after your shoulder replacement.   They may effect 
your healing. 

Driving:
You may resume driving when approved by your orthopedic 
surgeon.  We do not recommend driving while wearing a sling.

Return to Work:
You may return to work as soon as you are comfortable.  This 
is dependent on your job type.  You will not be able to do any 
work with your arm for 6 weeks post-op.  You will not be able to 
return to work with any heavy lifting until ___ months post-op.  
Return to work notes can be obtained from your orthopedic 
surgeon at your first post-op appointment.

Antibiotics:
You need to take antibiotics 30 minutes prior to any dental 
procedure for the next ___ years following your Total Shoulder 
Replacement.  The prescription for this antibiotic will be given 
at your request. 

Follow-up Appointment:
Your first post-operative appointment will be scheduled ___ 
weeks following your surgical procedure. At this appointment 
your sutures will be removed.  If you do not have a 
post-operative appointment scheduled when you leave following 
surgery, please call ___ to make the appointment.  Your 
first appointment will be with a physician ___ (PA) or 
nurse practitioner (___).

    
****Signs & Symptoms to Immediately Report****

Call ___ and go to the nearest hospital if you are having 
chest pain or trouble breathing.

Call the office at: ___ to report any of the following:
Persistent fever (101 or greater)
Sudden increase in pain and swelling
Wound redness or drainage
Increased skin temperature around incision
Deep calf pain and swelling

Physical Therapy:
NWB NO RANGE OF MOTION UNTIL FOLLOW UP STAY IN SLING 
Treatments Frequency:
DAILY DRESSING CHANGES WITH DSD
SUTURES OUT AT FOLLOW UP 

 
Followup Instructions:
___